US06492378B1
3,3-Dimethyl-7-nitro-1,2,3,4-tetrahydro-2-trifluoroacetylisoquinoline
A solution of 2,6-lutidine (2.29 ml; 19.69 mmol) and 3,3-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (3.7 g: 17.9 mmol) in dichloromethane (150 ml) was treated dropwise, with ice cooling, trifluoroacetic anhydride (2.53 ml, 17.9 mmol) in dichloromethane (50 ml). The reaction was then allowed to warm to 25° C. and stirred for 18 h. The resultant mixture was washed with 5M HCl, brine, dried over sodium sulphate, and then evaporated in vacuo to afford the title compound (5.82 g).

reactant | 2,6-lutidine | 19.69 mmol, 2.29 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | 3,3-dimethyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 17.9 mmol, 3.7 g | CC1(NCC2=CC(=CC=C2C1)[N+](=O)[O-])C | C11H14N2O2
reactant | trifluoroacetic anhydride | 17.9 mmol, 2.53 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3,3-Dimethyl-7-nitro-1,2,3,4-tetrahydro-2-trifluoroacetylisoquinoline | 5.82 g | CC1(N(CC2=CC(=CC=C2C1)[N+](=O)[O-])C(C(F)(F)F)=O)C | C13H13F3N2O3
